US06919356B2
Preparation of 1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-{1-[2-(4-fluorophenyl)-2-(RS)-hydroxyethyl]-(S)-piperidin-3-ylmethyl}-urea
A solution of (S)-1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-{1-[2-(4-fluorophenyl)-2-oxo-ethyl]-piperidin-3-ylmethyl}-urea (23 mg, 48 μmol) in methanol (1.0 mL) was treated with sodium borohydride (4.5 mg, 120 μmol) and the mixture was stirred at room temperature. After 3 hours and again after 5 hours, additional sodium borohydride (ca. 2 mg) was added. After a total of 7 hours, water (0.5 mL) was added, and the mixture was concentrated under vacuum. The residue was purified by flash column chromatography, eluting with 3% methanol in dichloromethane containing 0.3% aqueous ammonia, to provide a white glassy solid (21 mg, 91%). This material was a 1:1 mixture of epimers at the hydroxyl group. 1H NMR (300 MHz, CDCl3) δ8.25+8.16 (2s, 1H), 7.75+7.70 (2s, 1H), 7.54 (s, 1H), 7.30 (m, 2H), 7.05 (s, 1H), 7.00 (t, J=9 Hz, 2H), 6.21+6.13 (2 bt, 1H), 4.71 (m, 1H), 4.15+4.14 (2 s, 3H), 3.3-3.1 (m, 3H), 3.0-2.7 (m, 3H), 2.60 (q, J=8 Hz, 2H), 2.5-2.3 (m, 3H), 2.3-2.1 (2m, 1H), 1.9-1.5 (m, 4H), 1.20+1.19 (2 t, J=8 Hz, 3H) Mass spec (ES+) m/z 482.4 (M+H+).

reactant | (S)-1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-{1-[2-(4-fluorophenyl)-2-oxo-ethyl]-piperidin-3-ylmethyl}-urea | 48 μmol, 23 mg | C(C)C=1C=C(C=C(C1)C1=NN=NN1C)NC(=O)NC[C@H]1CN(CCC1)CC(=O)C1=CC=C(C=C1)F | C25H30FN7O2
reactant | sodium borohydride | 120 μmol, 4.5 mg | [BH4-].[Na+]
reactant | sodium borohydride | ca. 2 mg | [BH4-].[Na+]
reactant | water | 0.5 mL | O | H2O
solvent | methanol | 1.0 mL | CO | CH4O
product | 1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-{1-[2-(4-fluorophenyl)-2-(RS)-hydroxyethyl]-(S)-piperidin-3-ylmethyl}-urea | 21 mg, 91% | C(C)C=1C=C(C=C(C1)C1=NN=NN1C)NC(=O)NC[C@H]1CN(CCC1)CC(O)C1=CC=C(C=C1)F | C25H32FN7O2
